US07910592B2
Fuming nitric acid was added dropwise to a stirred solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-iodo-2-naphthyl)methyl]-4-methyl-1,3-oxazolidin-2-one (synthesized from INTERMEDIATE 16 using a method analogous to that described in EXAMPLE 1, Step E) in acetic acid at room temperature. The reaction was stirred at room temperature for 3 h. The reaction was diluted with saturated NaHCO3 (10 mL) and extracted with EtOAc (3×20 mL). The combined extracts were dried (Na2SO4) and concentrated in vacuo to give the crude product as a mixture of product isomers. The main isomer was purified by flash chromatography (Si, 12×160 mm, 0-20% EtOAc in hexanes gradient) to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-iodo-5-nitro-2-naphthyl)methyl]-4-methyl-1,3-oxazolidin-2-one. Rf=0.11 (20% EtOAc/hexanes). LCMS calc.=625.0; found=624.6 (M+1)+. 1H NMR (600 MHz, CDCl3): δ 9.20 (s, 1H); 8.28 (dd, J=1.0, 7.7 Hz, 1H); 8.10 (d, J=8.2 Hz, 1H); 7.93 (s, 1H); 7.89 (s, 1H); 7.81 (s, 2H); 7.61 (t, J=7.9 Hz, 1H); 5.82 (d, J=7.9 Hz, 1H); 4.98 (d, J=15.9 Hz, 1H); 4.48 (d, J=15.9 Hz, 1H); 4.21-4.15 (m, 1H); 0.84 (d, J=6.5 Hz, 3H).

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-iodo-2-naphthyl)methyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=CC2=CC=CC=C2C=C1I)C)(F)F | C23H16F6INO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3-iodo-5-nitro-2-naphthyl)methyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=CC2=CC=CC(=C2C=C1I)[N+](=O)[O-])C)(F)F | C23H15F6IN2O4
